US04303660
2.15 g (0.01 mole) of 1-nitro-5,6-dihydropyrazolo[1,5-c]quinazoline are dissolved in a mixture of 10 ml of ethanol and 20 ml of methyl iodide. 10 ml of triethylamine are added to the boiled mixture. The reaction mixture is boiled for 8 hours, then evaporated to dryness, the residue is dissolved in chloroform, washed with water, dried and evaporated. Thus, 2.0 g (87%) of 1-nitro-6-methyl-5,6-dihydropyrazolo[1,5-c]quinazoline are obtained. M.p.: 172°-173° C.

reactant | 1-nitro-5,6-dihydropyrazolo[1,5-c]quinazoline | 0.01 mole, 2.15 g | [N+](=O)([O-])C=1C=NN2CNC=3C=CC=CC3C21 | C10H8N4O2
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | methyl iodide | 20 ml | CI | CH3I
product | 1-nitro-6-methyl-5,6-dihydropyrazolo[1,5-c]quinazoline | 2.0 g, 87% | [N+](=O)([O-])C=1C=NN2CN(C=3C=CC=CC3C21)C | C11H10N4O2
